US04436903
4.76 g (20 mmols) of cobalt(II) chloride hexahydrate are added in several portions, at 0°-5° C., to a solution of 11.7 g (20 mmols) of 7β-phenoxyacetylamino-3-piperidino-3-cephem-4-carboxylic acid benzhydryl ester in 50 ml of dimethyl formamide. The solution turns dark blue. Then 75 ml of glacial acetic acid are added dropwise at 0° C. over 30 minutes. Then 4.08 g (120 mmols) of sodium borohydride are added in 200 mg portions over 1 hour, with vigorous evolution of gas after each addition. When the addition is complete, the reaction mixture is warmed to room temperature and, after the addition of a further 50 ml of glacial acetic acid, stirred for 36 hours at room temperature. The dark red solution is filtered to remove the pink precipitate, the filter residue is washed with methylene chloride, and the filtrate is concentrated in vacuo. The dimethyl formamide is distilled off in a high vacuum. The oily residue is dissolved in methylene chloride and washed three times with 50 ml of water. The methylene chloride solution is filtered over 50 g of silica gel to remove residual cobalt salts and the eluate is concentrated, affording pure 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester as a white foam.

reactant | 7β-phenoxyacetylamino-3-piperidino-3-cephem-4-carboxylic acid benzhydryl ester | 20 mmols, 11.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)N2CCCCC2 | C33H33N3O5S
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 120 mmols, 4.08 g | [BH4-].[Na+]
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | cobalt(II) chloride hexahydrate | 20 mmols, 4.76 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C28H24N2O5S
